US06956050B2
STEP 3. tert-butyl 2-[4-(propanimidoylamino)phenyl]ethylcarbamate
A mixture of tert-butyl 2-(4-aminophenyl)ethylcarbamate (709 mg, 3 mmol) and 2-naphthylmethyl propanimidothioate hydrobromide (930 mg, 3 mmol) in ethanol (10 mL) was stirred for overnight at ambient temperature. Then, the volatile components were removed by evaporation and the residue was partitioned between diethyl ether (10 mL) and water (10 mL). The aqueous phase was washed with diethyl ether (3×10 mL) and basified by NaOH to pH 10. The aqueous phase was extracted with chloroform (20×4) and the combined extract was dried (MgSO4). Concentration of the organic solvent afforded 831 mg (95%) of the title compound as a colorless powder. MS (ESI) m/z 292 [M+H]+.

reactant | tert-butyl 2-(4-aminophenyl)ethylcarbamate | 3 mmol, 709 mg | NC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C13H20N2O2
reactant | 2-naphthylmethyl propanimidothioate hydrobromide | 3 mmol, 930 mg | Br.C(CC)(=N)SCC1=CC2=CC=CC=C2C=C1
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | tert-butyl 2-[4-(propanimidoylamino)phenyl]ethylcarbamate | 831 mg, 95% | C(CC)(=N)NC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C16H25N3O2
